US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and m-tolylboronic acid to give (6-methoxy-1-m-tolyl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 331 (MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | m-tolylboronic acid | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
product | (6-methoxy-1-m-tolyl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)C=1C=C(C=CC1)C)NC1=NNC=C1 | C20H18N4O
